US05143909
A solution of (20S)-4,5-epoxy-21-hydroxy-20-methylpregnan-3-one (7.7 mmole) in dimethyl sulfoxide (40 mL), under a nitrogen atmosphere, was placed in an oil bath heated at 60° C. The solution was stirred vigorously as sodium azide (8.11 g, 0.338 mole) was slowly added. After the addition of the azide was complete, concentrated sulfuric acid (0.54 mL) was added. The bath temperature was raised to 100° C. and the reaction was stirred at this temperature for 90 minutes. The reaction was removed from the oil bath and cooled to room temperature and the resulting solid mass was broken up and poured into cold water (550 mL). The mixture was stirred for 30 min and the solids were collected by filtration, washed with water and dried to a yellow solid. The crude product was purified by flash chromatography (hexane-30% ethyl acetate) to give (20S)-4-amino-21-hydroxy-20-methylpregna-4,6-dien-3-one. IR 3462, 3390, 3346, 1652, 1616, 1592, 1564 cm-1 ; MS (CI) m/z 344 (100%, M+ +1); (EI) m/z 343 (60%, M+), 150 (100%); 1H NMR (CDCl3) δ 0.76 (3H, s, C18 -Me), 1.04+1.05 (6H, s+d, C19 -Me+C21 -Me) 2.48 (1H, dq), 2.63 (1H, dq), 3.38 (1H, dd, 1/2 C21 -CH2), 3.64(dd+v br, 1/2 C21 -CH2 +NH2), 5.97 (1H, dd) 6.30 (1H, dd); 13C NMR (CDCl3) δ 121.77, 132.08, 132.98, 136.55, 194.40.

reactant | (20S)-4,5-epoxy-21-hydroxy-20-methylpregnan-3-one | 7.7 mmole | O1C2C13CC[C@H]1[C@@H]4CC[C@H]([C@@H](CO)C)[C@]4(CC[C@@H]1[C@]3(CCC2=O)C)C | C22H34O3
reactant | sodium azide | 0.338 mole, 8.11 g | [N-]=[N+]=[N-].[Na+]
reactant | azide | [N-]=[N+]=[N-]
reactant | sulfuric acid | 0.54 mL | S(O)(O)(=O)=O | H2O4S
solvent | dimethyl sulfoxide | 40 mL | CS(=O)C | C2H6OS
product | (20S)-4-amino-21-hydroxy-20-methylpregna-4,6-dien-3-one | NC1=C2C=C[C@H]3[C@@H]4CC[C@H]([C@@H](CO)C)[C@]4(CC[C@@H]3[C@]2(CCC1=O)C)C | C22H33NO2
